US03997537
4-Hydroxypyrimidines bearing an amino group at the 2-position are intermediates for the preparation of various fungicidal and insecticidal products, including for example, the insecticides pirimiphos-methyl and pirimiphos-ethyl. They have been made by the condensation of an acetoacetic ester with a guanidine under basic conditions. Since acetoacetic esters may be prepared from diketene it was thought that synthesis of 4-hydroxy-pyrimidines from diketene itself would be possible. Various attempts to do this have been reported in the literature. Thus Lacey (J. Chem. Soc., 1954, 839-44) reacted diketene with guanidine carbonate in alkaline solution at the ambient temperature and obtained 2-amino-4-hydroxy-6-methylpyrimidine in 14% yield. Using the guanidine hydrochloride the yield was increased to 28%. However when methylguanidine hydrochloride was used the yield of product was only 8%, and investigation showed that the product was 1,6-dihydro-1,4-dimethyl-2-amino-pyrimidine-6-one and not a hydroxypyrimidine. Similarly Iwakura et al (J. Chem. Soc. Japan, Ind. Chem. Sect., 1954, 57, 947) found that 2-amino-4-hydroxy-6-methylpyrimidine was only obtained in 4% yield when diketene was reacted with guanidine nitrate in the presence of aqueous potassium hydroxide. We have now discovered that substantially higher yields of 2-amino-4-hydroxy-6-alkyl pyrimidines may be obtained by carrying out the reaction of a diketene with a guanidine in strongly acidic media. Furthermore the rate of reaction is sufficiently fast for the process to be operated in a continuous manner.

reactant | pirimiphos-methyl | CCN(CC)C1=NC(=CC(=N1)OP(=S)(OC)OC)C | C11H20N3O3PS
reactant | pirimiphos-ethyl | CCN(CC)C1=NC(=CC(=N1)OP(=S)(OCC)OCC)C | C13H24N3O3PS
reactant | guanidine | NC(=N)N | CH5N3
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
product | 2-amino-4-hydroxy-6-methylpyrimidine | 14% yield | NC1=NC(=CC(=N1)O)C | C5H7N3O
